US06812246B2
To a solution of 2-[4-(allyloxycarbonyl)amino-3-fluorophenyl]-7-[(allyloxycarbonyl)oxy]methyl-5-(chloroacetamido)-6,8-difluoro-4H-1-benzopyran-4-one (2.12 g, 3.65 mmol) in dimethylformamide (40 mL) were added dimethylamine hydrochloride (1.49 g, 18.3 mmol) and diisopropylethylamine (3.2 mL, 18 mmol), and the mixture was stirred at 50° C. for 2 hours. Water was added thereto, and the mixture was extracted with ethyl acetate to afford 2-[4-(allyloxycarbonyl)amino-3-fluorophenyl]-7-[(allyloxycarbonyl)oxy]methyl-5-(dimethylamino)acetamido-6,8-difluoro-4H-1-benzopyran-4-one (2.12 g, 99%)

reactant | 2-[4-(allyloxycarbonyl)amino-3-fluorophenyl]-7-[(allyloxycarbonyl)oxy]methyl-5-(chloroacetamido)-6,8-difluoro-4H-1-benzopyran-4-one | 3.65 mmol, 2.12 g | C(C=C)OC(=O)NC1=C(C=C(C=C1)C=1OC2=C(C(C1)=O)C(=C(C(=C2F)COC(=O)OCC=C)F)NC(CCl)=O)F | C26H20ClF3N2O8
reactant | dimethylamine hydrochloride | 18.3 mmol, 1.49 g | Cl.CNC
reactant | diisopropylethylamine | 18 mmol, 3.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 2-[4-(allyloxycarbonyl)amino-3-fluorophenyl]-7-[(allyloxycarbonyl)oxy]methyl-5-(dimethylamino)acetamido-6,8-difluoro-4H-1-benzopyran-4-one | 2.12 g, 99% | C(C=C)OC(=O)NC1=C(C=C(C=C1)C=1OC2=C(C(C1)=O)C(=C(C(=C2F)COC(=O)OCC=C)F)NC(CN(C)C)=O)F | C28H26F3N3O8
